US07541372B2
a) 5-(Imidazole-1-carbonyl)-1,3-dihydro-benzoimidazol-2-one
To a solution of 1,1′-carbonyl-diimidazole (11.7 g, 72.3 mmol) in THF (500 mL) was added 3,4-diaminobenzoic acid (5.00 g, 32.9 mmol) and stirred for 3 days at ambient temperature. The reaction mixture was concentrated and stirred for 30 min at 80° C. in water (100 mL). The resulting suspension was then cooled to ambient temperature and the mixture was filtered off and washed with water (2×50 mL) to afford the title compound (4.94 g, 66%) which was obtained as a white solid. MS: m/e=229.3 [M+H]+.

reactant | 1,1′-carbonyl-diimidazole | 72.3 mmol, 11.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,4-diaminobenzoic acid | 32.9 mmol, 5.00 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | THF | 500 mL | C1CCOC1 | C4H8O
product | 5-(Imidazole-1-carbonyl)-1,3-dihydro-benzoimidazol-2-one | 4.94 g, 66% | N1(C=NC=C1)C(=O)C1=CC2=C(NC(N2)=O)C=C1 | C11H8N4O2
